US06211199B1
88.1 Synthesis of 1-(2-methoxy-5-(3,5-dimethyl-4H-triazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 59.1 using 2-methoxy-5-(3,5-dimethyl-4H-triazol-1-yl)benzoic acid and 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt) to give the title compound.

reactant | 2-methoxy-5-(3,5-dimethyl-4H-triazol-1-yl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)N1NN(CC1C)C | C12H17N3O3
reactant | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2(CNCC2)C2=CC=CC=C2
product | 1-(2-methoxy-5-(3,5-dimethyl-4H-triazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)N1NN(CC1C)C | C40H54N8O3
